US06627651B1
A mixture of 2-hydroxyphenethyl alcohol (1.5 g), 1-bromopropane (1.3 ml), potassium carbonate (2.25 g) and acetone (50 ml) was stirred at 60° C. for 64 hours. After concentration under reduced pressure, the residue was mixed with water and was extracted with ethyl acetate. The organic layer was washed with a 1 N aqueous solution of sodium hydroxide and an aqueous saturated solution of sodium chloride, and was dried with magnesium sulfate. The resulting organic layer was concentrated under reduced pressure to obtain 2-propoxyphenethyl alcohol (2.02 g) as a yellow oily substance.

reactant | 2-hydroxyphenethyl alcohol | 1.5 g | OC1=C(CCO)C=CC=C1 | C8H10O2
reactant | 1-bromopropane | 1.3 ml | BrCCC | C3H7Br
reactant | potassium carbonate | 2.25 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-propoxyphenethyl alcohol | 2.02 g | C(CC)OC1=C(CCO)C=CC=C1 | C11H16O2
